US05362412
(Preparation of Iminodisuccinic acid)
A mixture of 12.77 g (110 mmol) maleic acid, 19.2 g (300 mmol) of 28% aqueous ammonia, and 13.3 g (100 mmol) aspartic acid in 75 ml water was heated to 95° C. with stirring. The solution was adjusted to a pH of 9 with 10% aqueous sodium hydroxide, then stored at 95° C. for 20 hours. The resulting clear solution was cooled to room temperature and 11.95 g (300 mmol) concentrated hydrochloric acid was added. The resulting precipitate of maleic and fumeric acid was removed by filtration, and the supernatant was concentrated under pressure to yield the product as a white solid.

reactant | maleic acid | 110 mmol, 12.77 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | ammonia | 300 mmol, 19.2 g | N | H3N
reactant | aspartic acid | 100 mmol, 13.3 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 300 mmol, 11.95 g | Cl | ClH
solvent | water | 75 ml | O | H2O
product | Iminodisuccinic acid | N(C(C(=O)O)CC(=O)O)C(C(=O)O)CC(=O)O | C8H11NO8
